Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2](=[C:3]([H:10])[H:11])[C:5]#[N+:6][O-:4])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9],61.440679158115515
[C:1](#[C:2][C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:1]12=[C:2]([H:7])[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C:5]1=[C:6]2[H:12],62.719366352605704
[N:1]([C:2](=[O:3])[C:6]([O:7][H:15])([H:13])[H:14])([H:8])[H:9].[N:4](=[C:5]([H:11])[H:12])[H:10]>>[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9],70.74167828216102
[C:5](=[O:6])([H:7])[H:8].[O+:1]#[C:2][C:3]#[C-:4]>>[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7],37.20565719210641
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])[H:11])([H:8])[H:10].[H:9][H:12],110.894223344247
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:5][C:4](=[O+:3][C-:2]([C:6]#[C:7][H:13])[H:11])[H:12])([H:8])([H:9])[H:10],80.35577817501152
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([C:4](=[C:5]([H:13])[H:14])[H:12])[O:6][H:11],86.13835512298509
[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7]>>[O:1]([C:2][N:6]([N:5]1[N:3]=[C:4]1[H:8])[H:9])[H:7],125.671615183421
[C:1]([C:2](=[C:3])[H:9])([C@@:6]1([H:13])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],5.401470933793689
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3](=[C:4]([H:15])[H:16])([N:5]([C+:6]([O-:7])[H:18])[H:17])[H:13].[H:9][H:14],76.4486971400296
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2]([C:3]([C:4]#[N:5])([H:12])[H:13])=[C:6](\[C:7][H:14])[H:11])([H:8])([H:9])[H:10],64.1094086463286
[C:1]([C:2](/[N:3]=[C:4](/[C@:5]1([H:14])[N:6]=[C:7]1[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],41.64470487261329
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])(/[C:5](=[C:6](\[O:7][H:19])[H:17])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][H:18],101.976543444259
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[O:4])([H:7])([H:8])[H:9].[H:10][H:14],59.2172666234922
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])=[C:5]([H:14])[O:6]2.[H:12][H:13],107.05637577599701
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8]>>[O:1]([C-:2]([C:3]([C@@:4]1([C:7]([H:12])([H:14])[H:15])[C:5]([H:13])=[O+:6]1)([H:10])[H:11])[H:9])[H:8],91.8223323407202
[C:1]([O:2][C:3]([C:4]#[C:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:4]#[C:5][C:6]([H:12])([H:13])[H:14])([H:7])([H:8])[H:9].[O:2]=[C:3]([H:10])[H:11],82.17789743861479
[C:1]([N-:2][C:3]([C:4](=[O:5])[O+:6]=[C:7]([H:14])[H:16])([H:12])[H:13])([H:8])([H:9])[H:10].[H:11][H:15]>>[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],3.9239036720816074
[N:1]([C:2]1=[C:6]=[N:7]1)([O:5][C:4](=[O:3])[H:9])[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],9.668796589180602
[O:1]([C+:2]([C:3](=[O:4])[C:5](=[N-:6])[H:9])[H:8])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:8])[H:9])[H:7],0.6765831518913927
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N+:6]#[C-:5])([H:7])([H:8])[H:9].[O:2]=[C:3]([C:4]([H:11])([H:12])[H:13])[H:10],86.09124935351801
[C:1](=[N:2][H:11])([H:8])[H:10].[C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:9])([H:12])[H:13]>>[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],77.54006664869294
[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C@@:2]1([C:3]#[N:4])[C:5][N:6]1[H:8])[H:7],76.822518974053
[C:1]([C@:2]1([C:3][H:11])[C:5]([H:14])([H:15])[C:4]([H:12])([H:13])[C:6]([H:16])=[C:7]1[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]12[C:3]([H:11])([H:12])[C:4]([H:13])([C:5]1([H:14])[H:15])[C:6]([H:16])=[C:7]2[H:17])([H:8])([H:9])[H:10],23.5680927286271
